US08193228B2
Methylchoroformate (16 μL, 0.21 mmol) was added to a solution of 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanamine (64 mg, 0.11 μmol) and triethylamine (31 μL, 0.22 mmol) in dichloromethane (5 mL) at ambient temperature. After stirring for 2 hr, the reaction mixture concentrated in vacuo to afford methyl {2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}carbamate which was used without further purification.

reactant | Methylchoroformate | 0.21 mmol, 16 μL | COC(=O)Cl | C2H3ClO2
reactant | 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanamine | 0.11 μmol, 64 mg | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(N)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C41H41FN4
reactant | triethylamine | 0.22 mmol, 31 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | methyl {2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}carbamate | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C1=CC=C(C=C1)C1=NC=C(C=C1)F)NC(OC)=O)(CC)C | C43H43FN4O2
